US08871796B2
Iodine (17.5 mg, 0.069 mmol, 1.3 equiv) was added to a stirring biphasic solution of N-(3-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}oxetane-3-yl)-2,2,2-trifluoroethanesulfonamide (27 mg, 0.053 mmol, 1.0 equiv) in 1 mL THF and 0.53 mL of concentrated NH4OH (28% solution). After stirring for 7 hours, aqueous Na2S2O3 was added (1 mL of a 5% solution) and the reaction mixture was extracted with diethyl ether. The organic layer was dried over magnesium sulfate. The dried solution was filtered and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (0-60% ethyl acetate:hexanes) to give N-(3-{3-[5-(4-cyanophenoxy)-1-ethyl-1H-pyrazol-3-yl]phenyl}oxetane-3-yl)-2,2,2-trifluoroethanesulfonamide (17 mg, 0.034 mmol, 65% yield). HRMS Calc'd (M+1)+507.1308. Found: 507.1305. (400 MHz, 1H, δ-CDCl3) 1.45 (3H, t, J=7.2), 3.04 (2H, q, J=8.6), 4.10 (2H, q, J=7.2), 5.04 (2H, d, J=7.1), 5.16 (2H, d, J=7.1), 5.66 (1H, br s), 6.11 (1H, s), 7.22 (2H, d, H=8.6), 7.36 (1H, d, J=7.9), 7.51 (1H, t, J=8.0), 7.70 (2H, d, J=8.6), 7.80 (2H, m).

reactant | Iodine | 0.069 mmol, 17.5 mg, 1.3 equiv | II | I2
reactant | N-(3-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}oxetane-3-yl)-2,2,2-trifluoroethanesulfonamide | 0.053 mmol, 27 mg, 1.0 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C=CC1)C1(COC1)NS(=O)(=O)CC(F)(F)F | C23H22F3N3O5S
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NH4OH | 0.53 mL | [NH4+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(3-{3-[5-(4-cyanophenoxy)-1-ethyl-1H-pyrazol-3-yl]phenyl}oxetane-3-yl)-2,2,2-trifluoroethanesulfonamide | 0.034 mmol, 17 mg, 65% yield | C(#N)C1=CC=C(OC2=CC(=NN2CC)C=2C=C(C=CC2)C2(COC2)NS(=O)(=O)CC(F)(F)F)C=C1 | C23H21F3N4O4S
